US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0473 g, 0.104 mmol), (4-((4-chlorobenzyl)oxy)phenyl)boronic acid (0.041 g, 0.156 mmol) and 2M Na2CO3 (0.130 ml, 0.260 mmol) in DMF 92 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (0.012 g, 10.39 μmol) was added, degassed for 5 min and placed in a oil bath pre-heated to 110 C. After 2 h, cooled and purified by pre-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (0.0368 g, 0.062 mmol, 59.7% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.38-7.44 (m, 4H), 7.16-7.19 (m, 1H), 7.02-7.09 (m, 3H), 6.01 (br. s., 1H), 5.09-5.16 (m, 2H), 4.24-4.31 (m, 1H), 4.19 (qd, J=7.1, 10.8 Hz, 1H), 3.04-3.27 (m, 1H), 2.83 (br. s., 1H), 2.67 (br. s., 3H), 2.28 (br. s., 4H), 1.94-2.13 (m, 1H), 1.27 (t, J=7.1 Hz, 3H), 1.20 (s, 9H), 0.88 (m, 3H), 0.68 (br. s., 3H). 4H of piperidine were not resolved. LCMS (M+H)=593.3.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.104 mmol, 0.0473 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-((4-chlorobenzyl)oxy)phenyl)boronic acid | 0.156 mmol, 0.041 g | ClC1=CC=C(COC2=CC=C(C=C2)B(O)O)C=C1 | C13H12BClO3
reactant | Na2CO3 | 0.260 mmol, 2M, 0.130 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 92 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 10.39 μmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(5-(4-((4-chlorobenzyl)oxy)phenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.062 mmol, 0.0368 g, 59.7% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl)C)C | C35H45ClN2O4
